US07018559B2
C. Synthesis of 3-(2-ethylhexoxymethyl)-7-oxabicyclo[4.1.0]heptane
A 500 mL round bottom flask equipped with a stirrer bar was charged with 22.4g (0.10 mol) 3-(2-ethylhexoxymethyl)cyclohexene, and 50 mL of methylene chloride. m-Chloroperbenzoic acid (28.3 g, 85% in purity; 0.138 mol) in methylene chloride (200 mL) was added dropwise to above mixture over 1 hr in an ice bath. After the above mixture was reacted at room temperature overnight, the reaction mixture was filtered. The solid was washed with hexane (3×30 mL). The precipitate was filtered, 50 mL of hexane was added into filtrate to further precipate m-chlorobenzoic acid. The solid was filtered and washed with hexane (2×20 mL). The solvent was evaporated and the residue distilled to give pure product.

reactant | 3-(2-ethylhexoxymethyl)cyclohexene | 0.10 mol, 22.4g | C(C)C(COCC1C=CCCC1)CCCC | C15H28O
reactant | m-Chloroperbenzoic acid | 28.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-ethylhexoxymethyl)-7-oxabicyclo[4.1.0]heptane | C(C)C(COCC1CC2OC2CC1)CCCC | C15H28O2
